US07148226B2
4-(4-Bromo-phenyl)-3,5-dimethyl-isoxazole
A mixture of 4-bromophenylboronic acid (1 g, 5 mmol), 3,5-dimethyl-4-iodoisoxazole (0.93 g, 4.2 mmol), bis(triphenylphospine)palladium(II) chloride (59 mg, 2 mol %), NaHCO3 (1.06 g, 12.6 mmol) in DME (5 mL) and H2O (5 mL) was heated to 80° C. under N2 for 18 h. The reaction mixture was partitioned between 1 N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (5% EtOAc in hexanes) to give the title compound as a white solid (0.9 g, 86%).

reactant | 4-bromophenylboronic acid | 5 mmol, 1 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | 3,5-dimethyl-4-iodoisoxazole | 4.2 mmol, 0.93 g | CC1=NOC(=C1I)C | C5H6INO
reactant | NaHCO3 | 12.6 mmol, 1.06 g | C(=O)(O)[O-].[Na+]
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | H2O | 5 mL | O | H2O
catalyst | bis(triphenylphospine)palladium(II) chloride | 59 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-Bromo-phenyl)-3,5-dimethyl-isoxazole | 0.9 g, 86% | BrC1=CC=C(C=C1)C=1C(=NOC1C)C | C11H10BrNO
